US08258134B2
A pressure vial containing a mixture of 4-chloro-5-phenoxy-2H-pyridazin-3-one (1.76 g, 7.90 mmol), water (29.6 mL), and a 2N aqueous sodium hydroxide solution (4.26 mL) was treated with 10% palladium on carbon (174 mg, 10% weight of 4-chloro-5-phenoxy-2H-pyridazin-3-one). The reaction was then pressurized with hydrogen (50 psi), where it shook for 24 h. The resulting reaction mixture was diluted with methylene chloride (100 mL) and water (100 mL), filtered through a pad of diatomaceous earth, and rinsed. The layers were separated, and the organics were concentrated in vacuo. The aqueous layer was then acidified to pH 1-2 with a 2N aqueous hydrochloric acid solution. The resulting mixture was extracted with 90/10 methylene chloride/methanol (3×100 mL). These organics were combined, dried over sodium sulfate, filtered, rinsed, and concentrated in vacuo to afford 5-phenoxy-2H-pyridazin-3-one (1.44 g, 96%) as a white solid; ES+-HRMS m/e calcd for C10H8N2O2 [M+H+] 189.0659, found 189.0658.

reactant | 4-chloro-5-phenoxy-2H-pyridazin-3-one | 7.90 mmol, 1.76 g | ClC=1C(NN=CC1OC1=CC=CC=C1)=O | C10H7ClN2O2
reactant | sodium hydroxide | 2N, 4.26 mL | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 174 mg | [Pd] | Pd
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | water | 29.6 mL | O | H2O
product | 5-phenoxy-2H-pyridazin-3-one | 1.44 g, 96% | O(C1=CC=CC=C1)C1=CC(NN=C1)=O | C10H8N2O2
